US04008237
A mixture containing 12 g of ethyl 8-chloro-2,3-dihydrofuro(2,3-g)quinoline-7-carboxylate, 100 ml of water, 10.9 g of 85% potassium hydroxide and 80 ml of methanol was stirred while refluxing for 2 hours. The methanol was evaporated at atmospheric pressure. The resulting mixture was heated to 90°-95° C and stirred for one further hour. Then, the mixture was acidified to pH 2 by the addition of 6N hydrochloric acid at 80° C. After cooling, the resulting white precipitate was filtered and washed with water to give 10.03 g (99%) of 2,3,5,8-tetrahydro-5-hydroxy-8-oxofuro(2,3-g)-quinoline-7-carboxylic acid as pale yellow prisms having a melting point of 274°-275° C (decomposition). Elementary analysis values for C12H9O5N were as follows:

reactant | ethyl 8-chloro-2,3-dihydrofuro(2,3-g)quinoline-7-carboxylate | 12 g | ClC1=C(C=NC=2C=C3C(=CC12)OCC3)C(=O)OCC | C14H12ClNO3
reactant | water | 100 ml | O | H2O
reactant | potassium hydroxide | 10.9 g | [OH-].[K+]
solvent | methanol | 80 ml | CO | CH4O
product | 2,3,5,8-tetrahydro-5-hydroxy-8-oxofuro(2,3-g)-quinoline-7-carboxylic acid | 10.03 g, 99% | ON1C=C(C(C=2C=C3C(=CC12)CCO3)=O)C(=O)O | C12H9NO5
